US04638075
N-(5-Amino-1,2,4-triazol-3-yl)-2,5-dichlorobenzenesulfonamide
A mixture of 8.51 g (26.2 mmol) of N'-cyano-N-(2,5-dichlorophenylsulfonyl)-S-methylisothiourea and 10 ml (10 g, 0.20 mol) of hydrazine monohydrate in 85 ml of ethanol was heated at reflux for 30 minutes. After cooling to room temperature, the solid which separated was collected and suspended in 170 ml of H2O and the suspension was acidified with concentrated aqueous HCl. After stirring the suspension for 4 hours the solid was collected and dried in vacuo to yield 5.10 g (57 percent) of the desired product as a hydrochloride salt, mp 306°-308° C. IR and 1H NMR spectra were consistent with the assigned structure.

reactant | N'-cyano-N-(2,5-dichlorophenylsulfonyl)-S-methylisothiourea | 26.2 mmol, 8.51 g | C(#N)N=C(NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl)SC | C9H7Cl2N3O2S2
reactant | hydrazine monohydrate | 0.20 mol, 10 ml, 10 g | O.NN
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | N-(5-Amino-1,2,4-triazol-3-yl)-2,5-dichlorobenzenesulfonamide | 5.10 g, 57 percent | NC1=NC(=NN1)NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl | C8H7Cl2N5O2S
